US03966945
To a stirred solution of 223 g. of 1-(2-pyridyl)-ethanol in 1500 ml. of dry dimethylsulfoxide is added 2.3 moles of sodium hydride in portions, under nitrogen, maintaining the temperature at 20°C. After two hours, 331 g. of methyl iodide is added at 20°C. After stirring for another 3 hours, the mixture is poured onto ice-water and extracted three times with ether. The organic phase is washed with water, dried over magnesium sulfate, concentrated in vacuo, and the residue is distilled to give 2-(1-methoxyethyl)pyridine.

reactant | 1-(2-pyridyl)-ethanol | N1=C(C=CC=C1)C(C)O | C7H9NO
reactant | sodium hydride | 2.3 moles | [H-].[Na+]
reactant | methyl iodide | CI | CH3I
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 2-(1-methoxyethyl)pyridine | COC(C)C1=NC=CC=C1 | C8H11NO
